US04357342
A mixture of p-nitrobenzenesulfonic acid (20 g), phosphorous pentoxide (50 g) and 1,2-dichloroethylene (100 ml) is heated at reflux for 4 days. The hot supernatant is decanted from the gummy residue and allowed to cool to room temperature. The resulting crystalline precipitate of p-nitrobenzenesulfonic anhydride (1.5 g) is collected, washed with anhydrous diethylether, and dried under vacuum. The gummy residue is twice more refluxed overnight with 100 ml portions of dichloroethylene and worked up as above to provide additional p-nitrobenzenesulfonic anhydride (4.0 g); mp 171°-172°.

reactant | p-nitrobenzenesulfonic acid | 20 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)O | C6H5NO5S
reactant | phosphorous pentoxide | 50 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | 1,2-dichloroethylene | 100 ml | ClC=CCl | C2H2Cl2
product | p-nitrobenzenesulfonic anhydride | 4.0 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H8N2O9S2
